US07235581B2
(RS)-1-[4-(4-Fluoro-benzyloxy)-phenyl]-2-oxo-pyrrolidine-3-carboxylic Acid Methylamide
The title compound is prepared in analogy to Example 3d) from (RS)-1-[4-(4-fluoro-benzyloxy)-phenyl]-2-oxo-pyrrolidine-3-carboxylic acid and methylamine. Yield: 17% of a colorless solid. MS: m/e=343.2 (M+H)+.

reactant | (RS)-1-[4-(4-fluoro-benzyloxy)-phenyl]-2-oxo-pyrrolidine-3-carboxylic acid | FC1=CC=C(COC2=CC=C(C=C2)N2C(C(CC2)C(=O)O)=O)C=C1 | C18H16FNO4
reactant | methylamine | CN | CH5N
product | (RS)-1-[4-(4-Fluoro-benzyloxy)-phenyl]-2-oxo-pyrrolidine-3-carboxylic Acid Methylamide | CNC(=O)C1C(N(CC1)C1=CC=C(C=C1)OCC1=CC=C(C=C1)F)=O | C19H19FN2O3
